US06465455B1
N-[5-(3-dimethylaminobenzamido)-2-fluorophenyl]-3,4-dimethoxybenzamide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.12 g) in methylene chloride (5 ml) was added to a stirred mixture of 3,4-dimethoxybenzoic acid (0.91 g), N-(3-amino-4-fluorophenyl)-3-dimethylaminobenzamide (0.14 g), DMF (2 ml) and 4-dimethylaminopyridine (0.004 g). The reaction mixture was stirred at ambient temperature for 18 hours. Water (20 ml) and methylene chloride (10 ml) were added. The organic phase was washed with a saturated aqueous sodium bicarbonate solution, dried (MgSO4) and evaporated. The residual oil was purified by column chromatography on silica gel using a 49:1 mixture of methylene chloride and methanol as eluent. The material so obtained was triturated under diethyl ether. There was thus obtained the title compound (0.084 g) as a colourles solid, m.p. 187-188° C.; NMR Spectrum: (CDCl3) 3.02 (s, 6H), 3.97 (s, 6H), 6.86 (m, 1H), 6.93 (d, 1H), 7.09 (d, 1H), 7.16 (t, 1H), 7.25 (m, 1H), 7.32 (t, 1H), 7.41 (m, 1 H), 7.5 (d, 1H), 7.88 (m, 1H), 7.97 (s, 1H), 8.04 (s, 1H), 8.42 (m, 1H);

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.12 g | Cl.CN(CCCN=C=NCC)C
reactant | 3,4-dimethoxybenzoic acid | 0.91 g | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
reactant | N-(3-amino-4-fluorophenyl)-3-dimethylaminobenzamide | 0.14 g | NC=1C=C(C=CC1F)NC(C1=CC(=CC=C1)N(C)C)=O | C15H16FN3O
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.004 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 20 ml | O | H2O
product | N-[5-(3-dimethylaminobenzamido)-2-fluorophenyl]-3,4-dimethoxybenzamide | 0.084 g | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=C(C=C2)OC)OC)=O)F)C=CC1)C | C24H24FN3O4
